US06509328B1
{2′,4′-Difluoro-3-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-2′,4′-difluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G43) and 3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionic acid ethyl ester (Example H2) according to the general procedure K. Obtained as a light yellow oil (164 mg).

reactant | (3-amino-2′,4′-difluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=C(C=C1)F)F)N)=O | C17H18F2N2O2
reactant | 3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionic acid ethyl ester | C(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O | C13H13N3O3
product | {2′,4′-Difluoro-3-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester | 164 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=C(C=C1)F)F)NC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O)=O | C28H25F2N5O4
